US06552022B1
4′-Isopropyl-5-methyl-biphenyl-2-carboxylic Acid (4-piperazin-1-yl-phenyl)-amide
To a solution of 4-{4-[(4′-isopropyl-5-methyl-biphenyl-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester (4 g) in CH2Cl2 (20 mL) was added trifluoroacetic acid (15 mL) and the solution was stirred at room temperature for 16 hours. The mixture was then evaporated under reduced pressure and the residue was taken in water and basified with a 1N NaOH aqueous solution. The resulting precipitate was extracted with CH2Cl2 and the organic phase was washed with water, dried over Na2SO4 filtered and evaporated to give the title compound (3 g) as white crystals.

reactant | 4-{4-[(4′-isopropyl-5-methyl-biphenyl-2-carbonyl)-amino]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 4 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC(=CC1)C)C1=CC=C(C=C1)C(C)C | C32H39N3O3
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4′-Isopropyl-5-methyl-biphenyl-2-carboxylic Acid (4-piperazin-1-yl-phenyl)-amide | 3 g | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1C(=CC(=CC1)C)C1=CC=C(C=C1)C(C)C | C27H31N3O
